US09259470B2
(R)-tert-Butyl 3-(4-chloro-3-fluorobenzoyl)pyrrolidine-1-carboxylate (920 mg, 2.806 mmol) was dissolved in THF (14.0 mL, 0.2M), degassed with N2, and cooled to −78° C. Lithium tri-sec-butylborohydride (1M in THF; 4210 μL, 4.210 mmol) was added slowly drop wise by syringe. The reaction was then stirred at −78° C. for 30 minutes. Water (5 mL) was then added to quench the reaction. The mixture was concentrated by rotovap to remove the bulk of the THF. The remaining mixture was diluted to 50 mL with water and extracted with 4/1 dichloromethane/isopropyl alcohol (2×50 mL). The combined organics were washed with water (100 mL), were isolated, dried over sodium sulfate, filtered and concentrated. The crude product was loaded onto an SP1 samplet and purified by silica gel chromatography using a gradient from 1% to 55% ethyl acetate in hexanes. Product containing fractions were pooled and concentrated to afford (3R)-tert-butyl 3-((4-chloro-3-fluorophenyl)(hydroxy)methyl)pyrrolidine-1-carboxylate as an oil and as a 1:1 mixture of diastereomers (640 mg, 69% yield).

reactant | (R)-tert-Butyl 3-(4-chloro-3-fluorobenzoyl)pyrrolidine-1-carboxylate | 2.806 mmol, 920 mg | ClC1=C(C=C(C(=O)[C@H]2CN(CC2)C(=O)OC(C)(C)C)C=C1)F | C16H19ClFNO3
reactant | Lithium tri-sec-butylborohydride | 4.210 mmol, 1M, 4210 μL | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | Water | 5 mL | O | H2O
solvent | THF | 0.2M, 14.0 mL | C1CCOC1 | C4H8O
product | (3R)-tert-butyl 3-((4-chloro-3-fluorophenyl)(hydroxy)methyl)pyrrolidine-1-carboxylate | 69% yield | ClC1=C(C=C(C=C1)C([C@H]1CN(CC1)C(=O)OC(C)(C)C)O)F | C16H21ClFNO3
